US07566699B2
3-[2-(4-Benzyloxycarbonylphenyl)ethyl]-4-hydroxybenzofuran (0.26 g) and 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (0.41 g) were dissolved in dichloromethane (5 mL)-ethyl acetate (3 mL). To the solution was added boron trifluoride-diethyl ether complex (0.44 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into a saturated aqueous, sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/2-2/3) to give 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-benzyloxycarbonylphenyl)ethyl]-benzofuran (0.44 g). This material was dissolved in tetrahydrofuran (5 mL). To the solution was added 10% palladium-carbon powder (0.2 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 1 hour. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (0.37 g).

reactant | 3-[2-(4-Benzyloxycarbonylphenyl)ethyl]-4-hydroxybenzofuran | 0.26 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C24H20O4
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 0.41 g | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-benzyloxycarbonylphenyl)ethyl]-benzofuran | 0.44 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2 | C38H38O13
